* source CONTROL_TEMP
V_V6         N11777 0 .3
R_R19         N11777 N09527  100k TC=0,0 
R_R20         N09527 0  100k TC=0,0 
X_U5         N09527 N09889 N12564 N12262 N09877 uA741
R_R22         0 N09617  560 TC=0,0 
R_R21         N09735 N09617  10k TC=0,0 
V_V9         N09735 0 5
R_R24         N09889 N09877  100k TC=0,0 
R_R25         N09617 N09889  100k TC=0,0 
X_U6         0 N10491 N10650 N13349 N10553 uA741
R_R26         N09877 N10491  560 TC=0,0 
R_R27         N10491 N10553  100k TC=0,0 
V_V10         N10650 0 9
V_V12         0 N12262 9
V_V13         N12564 0 9
V_V14         0 N13349 9
X_D1         N13495 N10553 awb1n4148 PARAMS:                
R_R28         0 N13495  1k TC=0,0 
